2123-12-19 07:18:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Altered mental status
   24 Hour Events:
 NASAL SWAB - At [**2123-12-18**] 11:30 AM
 INVASIVE VENTILATION - START [**2123-12-18**] 11:30 AM
 PICC LINE - START [**2123-12-18**] 11:55 AM
 ARTERIAL LINE - START [**2123-12-18**] 12:25 PM
 BLOOD CULTURED - At [**2123-12-18**] 01:00 PM
 URINE CULTURE - At [**2123-12-18**] 02:00 PM
 MULTI LUMEN - START [**2123-12-18**] 03:10 PM
   - Started on neo
   CTA:
   1. No pulmonary embolism.
   2. Small bilateral pleural effusions and basilar atelectasis.
   3. Ascites incompletely imaged.
   4. Emphysema.
   5. Nonspecific subtle tree-in-[**Male First Name (un) 2717**] interstitial opacity of the right
   upper and middle lobes.
   -stopped heparin gtt as CT without PE
   CT head - wet read:
   Hypodensity in the region of the right pons corresponding to area of
   infarct noted on prior MRI dated [**2123-12-12**]. No new areas of
   hypodensity identified. If there is clinical concern for an acute
   ischemic process, an MRI may be obtained for further evaluation.
   liver: add rifaximin, cont lactulose
   renal; possibly SIADH, check q6h Na
   hypotension to SBP 70s, HR in low 100s, bolused NS
   Allergies:
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2123-12-18**] 08:25 PM
   Cefipime - [**2123-12-19**] 12:48 AM
   Metronidazole - [**2123-12-19**] 05:17 AM
   Acyclovir - [**2123-12-19**] 06:27 AM
   Infusions:
   Fentanyl - 50 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   52 yo PMH of HIV (CD4 [**2123**]), HCV, HBV admittited to medicine on
   [**2123-12-6**] with FTT and acute on chronic mental status change not a/w sx
   other than anorexia sent to floor w/ ?meningitis now transferred to the
   MICU for hypoxic respiratory failure
   Hospital course:  worsening liver function with a Tbili 8.6,
   transaminitis, and coagulopathy, as well as hyponatremia consistent
   with SIADH.  An initial LP was concerning for meningitis, and the
   patient was treated for TB meningitis with RIPE (discontinued day of
   transfer to MICU) and acylovir.  He had a repeat LP on [**2123-12-18**], which
   demonstrated 825 WBC (tube 4), he also underwent a IR guided diagnostic
   paracentesis that was negative.  He was also noted on [**12-12**] to have a
   right pontinue infarct that was felt to be due to spreading
   leptomeningeal inflammation.  Yesterday, the patient received 3 units
   FFP with resulting hypoxia that resolved with lasix.   Prior to going
   to radiology for a CTH, the patient then desaturated to the 70s on 2L
   nc with an ABG 7.47/34/67. A Code Blue was called and he was intubated
   and transferred to the MICU.
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2123-12-19**] 07:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.6
C (97.8
   HR: 110 (89 - 140) bpm
   BP: 101/64(77) {69/47(-9) - 130/80(96)} mmHg
   RR: 16 (16 - 29) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  1,095 mL
                                                                  2,258 mL
   PO:
             TF:
   IVF:
                                                                  1,095 mL
                                                                  2,098 mL
   Blood products:
   Total out:
                                                                    665 mL
                                                                    325 mL
   Urine:
                                                                    665 mL
                                                                    325 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    430 mL
                                                                  1,933 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 37
   PIP: 18 cmH2O
   Plateau: 14 cmH2O
   SpO2: 99%
   ABG: 7.48/34/134/22/3
   Ve: 7.9 L/min
   PaO2 / FiO2: 335
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   87 K/uL
   7.8 g/dL
   97 mg/dL
   0.7 mg/dL
   22 mEq/L
   3.2 mEq/L
   13 mg/dL
   90 mEq/L
   121 mEq/L
   22.3 %
   7.0 K/uL
        [image002.jpg]
                             [**2123-12-18**]  01:14 PM
                             [**2123-12-18**]  01:29 PM
                             [**2123-12-19**]  01:24 AM
                             [**2123-12-19**]  01:38 AM
   WBC
   4.8
   7.0
   Hct
   24.0
   22.3
   Plt
   99
   87
   Cr
   0.7
   0.7
   TCO2
   26
   26
   Glucose
   125
   97
   Other labs: PT / PTT / INR:20.3/113.6/1.9, ALT / AST:55/126, Alk Phos /
   T Bili:106/7.8, Differential-Neuts:82.8 %, Lymph:12.6 %, Mono:4.0 %,
   Eos:0.5 %, LDH:200 IU/L, Ca++:8.2 mg/dL, Mg++:2.3 mg/dL, PO4:4.2 mg/dL
   Imaging: CT Head [**2123-11-18**]
   1. Hypodensity in the region of the right pons corresponding to area of
   infarct noted on prior MRI dated [**2123-12-12**]. No new areas of
   hypodensity identified. If there is clinical concern for an acute
   ischemic
   process, an MRI may be obtained for further evaluation.
   CTA [**2123-12-18**]
   IMPRESSION:
   1. No pulmonary embolism.
   2. Small bilateral pleural effusions and basilar atelectasis.
   3. Ascites incompletely imaged.
   4. Emphysema.
   5. Nonspecific subtle tree-in-[**Male First Name (un) 2717**] interstitial opacity of the right
   upper and
   middle lobes.
   Microbiology: [**2123-12-17**] 9:43 am CSF;SPINAL FLUID      Source: LP TUBE#3.
         ACID FAST SMEAR ADD-ON [**First Name8 (NamePattern2) **] [**First Name8 (NamePattern2) 10373**] [**Last Name (NamePattern1) **].
      GRAM STAIN (Final [**2123-12-17**]):
         4+   (>10 per 1000X FIELD):   POLYMORPHONUCLEAR LEUKOCYTES.
         NO MICROORGANISMS SEEN.
         This is a concentrated smear made by cytospin method, please
   refer to
         hematology for a quantitative white blood cell count..
      FLUID CULTURE (Preliminary):    NO GROWTH.
      ACID FAST CULTURE (Preliminary):
      ACID FAST SMEAR (Final [**2123-12-17**]):
         NO ACID FAST BACILLI SEEN ON CONCENTRATED SMEAR.
   No Lyme, No cryptococcal Ag, no RPR
   Assessment and Plan
   Mr. [**Known lastname 10351**] is a 52 year old gentleman with a PMH significant for HIV
   (CD4 [**2123**]), HCV, HBV admittited to medicine on [**2123-12-6**] with acute
   on chronic mental status concerning for meningitis now now transferred
   to the MICU for hypoxic respiratory failure.
   .
   # Hypoxic respiratory failure: Patient with initial hyperventilation
   overnight with ABG consistent with acute respiratory alkalosis.  on
   [**12-18**], he had a new supplemental O2 requirement in the setting of rapid
   shallow breathing that was likely alveolar hypoventilation with an
   increased Vd/Vt.  He developed hypoxemia requiring intubation likely
   from tiring with accessory muscle use.  Potential etiologies to the
   patient's hyperventilation in the setting of normal oxygenation include
   CVA-related pulmonary complications including central neurogenic
   hyperventilation, pulmonary emboli, sepsis with hyperventilation, and
   increased restrictive physiology from ascites, effusions, or
   parenchymal lung disease including pneumonia.  Patient was started on
   heparin gtt prior to transfer over concern for PE, and his
   antimicrobial therapy was broadened to vanco and cefepime.  His CTA was
   negative for PE and his heparin drip was stopped.  No signs of increase
   intracranial pressure on CT head, although a MRI would be more
   sensitive for stroke to midbrain.
   - Continue antimicrobial therapy including vanco, cefepime, flagyl, and
   acyclovir.
   - Volume cycled assist-control with adjustments by ABG.
   - Bedside U/S to assess for ascites.
   .
   # AMS/Meningitis/CVA: Patient with new right pontinue infarct on [**12-12**].
   Overnight, was reported to have table to slightly worsening mental
   status.  Potential etiologies include new CVA, infection, hyponatremia,
   hepatic encephalopathy.
   - Pan-culture, antimicrobial therapy as above.
   - Lactulose
   - Renal recommendations about repleting Na
   - MRI to r/o CVA
   .
   # Tachycardia: Potential etiologies include PE, infection, or centrally
   medited process in patient with known leptomeningeal inflammation and
   pontine CVA.
   - Work-up as above.
   .
   # Hyponatremia: Patient with progressively worsening hyponatremia now
   to 119.
   - Trend lytes, check urine lytes/osm
   - Given progressive decline in serum sodium, would consult renal for
   recommendations of further evaluation and for possible hypertonic
   saline.
   .
   # Cirrhosis: Worsening synthetic function over the course of his
   hospital stay with progressively worsening hyperbilirubinemia
   concerning for worsening liver function.
   - Lactulose and rifaximin
   - Follow-up hepatology recs
   - Trend LFTs, synthetic function.
   .
   # Anion gap acidosis: likely secondary to lactic acidosis with most
   recent lactate of 2.2.
   - Trend lactate, AG
   - Antimicrobials as source localization as above.
   .
   # Anemia: Stable anemia. Continue to trend hct.
   .
   # Coagulopathy: Most likely secondary to poor synthetic function.
   - Trend coags.
   .
   # IDDM: HISS and accuchecks.
   .
   # HIV: Not currently on HAART. Follow-up ID recs.
   .
   FEN: No IVF, replete electrolytes
   Prophylaxis: Heparin ggt, H2B
   Access: Double lumen PICC; IJ needs to be inserted 2 cm
   Code:  Full (confirmed with Mother)
   Communication: [**Name (NI) **],[**Name (NI) 3199**] (Sister)[**Telephone/Fax (3) 10352**]
   Disposition: ICU level of care.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2123-12-18**] 11:55 AM
   Arterial Line - [**2123-12-18**] 12:25 PM
   Multi Lumen - [**2123-12-18**] 03:10 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2123-12-19 14:26:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 NASAL SWAB - At [**2123-12-18**] 11:30 AM
 INVASIVE VENTILATION - START [**2123-12-18**] 11:30 AM
 PICC LINE - START [**2123-12-18**] 11:55 AM
 ARTERIAL LINE - START [**2123-12-18**] 12:25 PM
 BLOOD CULTURED - At [**2123-12-18**] 01:00 PM
 URINE CULTURE - At [**2123-12-18**] 02:00 PM
 MULTI LUMEN - START [**2123-12-18**] 03:10 PM
   Hypotensive and low urine output overnight - treated with neo (now off)
   and IVF
   Patient unable to provide history: Sedated
   Allergies:
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Metronidazole - [**2123-12-19**] 05:17 AM
   Acyclovir - [**2123-12-19**] 06:27 AM
   Vancomycin - [**2123-12-19**] 08:18 AM
   Cefipime - [**2123-12-19**] 11:38 AM
   Infusions:
   Fentanyl - 50 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2123-12-19**] 08:18 AM
   Other medications:
   Reviewed
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2123-12-19**] 02:23 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37
C (98.6
   HR: 114 (89 - 132) bpm
   BP: 95/56(67) {69/47(54) - 130/80(96)} mmHg
   RR: 21 (15 - 22) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  1,095 mL
                                                                  2,617 mL
   PO:
             TF:
   IVF:
                                                                  1,095 mL
                                                                  2,397 mL
   Blood products:
   Total out:
                                                                    665 mL
                                                                    610 mL
   Urine:
                                                                    665 mL
                                                                    610 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    430 mL
                                                                  2,007 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 461 (430 - 461) mL
   PS : 5 cmH2O
   RR (Set): 18
   RR (Spontaneous): 18
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 37
   PIP: 10 cmH2O
   Plateau: 14 cmH2O
   SpO2: 95%
   ABG: 7.48/34/134/22/3
   Ve: 7.8 L/min
   PaO2 / FiO2: 335
   Physical Examination
   General Appearance: Thin, temporal wasting
   Eyes / Conjunctiva: enucleated left eye
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : ant/lat)
   Abdominal: Soft, Bowel sounds present, Distended
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm, No(t) Rash:
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   7.8 g/dL
   87 K/uL
   97 mg/dL
   0.7 mg/dL
   22 mEq/L
   4.3 mEq/L
   13 mg/dL
   90 mEq/L
   121 mEq/L
   21.6 %
   7.0 K/uL
        [image002.jpg]
                             [**2123-12-18**]  01:14 PM
                             [**2123-12-18**]  01:29 PM
                             [**2123-12-19**]  01:24 AM
                             [**2123-12-19**]  01:38 AM
                             [**2123-12-19**]  06:38 AM
   WBC
   4.8
   7.0
   Hct
   24.0
   22.3
   21.6
   Plt
   99
   87
   Cr
   0.7
   0.7
   TCO2
   26
   26
   Glucose
   125
   97
   Other labs: PT / PTT / INR:20.3/113.6/1.9, ALT / AST:55/126, Alk Phos /
   T Bili:106/7.8, Differential-Neuts:82.8 %, Lymph:12.6 %, Mono:4.0 %,
   Eos:0.5 %, LDH:200 IU/L, Ca++:8.2 mg/dL, Mg++:2.3 mg/dL, PO4:4.2 mg/dL
   Fluid analysis / Other labs: Na 119 to 121
   Imaging: CT head: Hypodensity in the region of the right pons
   corresponding to area of
   infarct noted on prior MRI dated [**2123-12-12**]. No new areas of
   hypodensity identified.
   CT chest CTA: no PE, small b/l effusions/atelect, ascites, emphysema,
   subtle tree-in-[**Male First Name (un) 2717**]
   Assessment and Plan
 HYPOTENSION (NOT HOCK)
 HYPONATREMIA (LOW SODIUM, HYPOSMOLALITY)
 LIVER FUNCTION ABNORMALITIES
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 H/O ALCOHOL ABUSE
 HIV (HUMAN IMMUNODEFICIENCY VIRUS, ACQUIRED IMMUNODEFICIENCY
   SYNDROME, AIDS)
   Hx as above, complicated with MMP, now with meningitis, abnormal LFTs,
   acute resp failure s/p respiratory arrest
   Acute resp failure - likely hyperventilation syndrome in context of
   acute pontine stroke. Agree with possibility of TB given wasting and
   failure to thrive x months. Other etiologies to consider are PE, though
   less likely. Has bibasilar infiltrates on CT, ? aspiration. C/w
   vanc/cef/acyc. Will do SBT and wean sedation.
   CT head, CTA to r/o PE, c/w heparin for now
   Acute stroke/meningitis - neuro involved. Will need repeat MR, at least
   to define prognosis
   Elevated LFTs
   ECG changes with ST depression lat leads
   Hyponatremia - ? SIADH, check urine lytes. Restrict free water as
   tolerated. Needed bolus for hypotension this AM
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2123-12-18**] 11:55 AM
   Arterial Line - [**2123-12-18**] 12:25 PM
   Multi Lumen - [**2123-12-18**] 03:10 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2123-12-20 07:06:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - Patient transfused 2 u pRBC for Hct to 19
   - Vanc trough 23
 dose lowered
   -  Extubated
   Allergies:
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2123-12-19**] 09:00 PM
   Cefipime - [**2123-12-20**] 12:15 AM
   Acyclovir - [**2123-12-20**] 05:30 AM
   Metronidazole - [**2123-12-20**] 06:58 AM
   Infusions:
   Fentanyl - 25 mcg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2123-12-19**] 08:18 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2123-12-20**] 07:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.1
C (97
   HR: 101 (91 - 114) bpm
   BP: 133/86(98) {96/74(79) - 133/89(98)} mmHg
   RR: 19 (15 - 26) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  3,870 mL
                                                                    506 mL
   PO:
             TF:
   IVF:
                                                                  3,034 mL
                                                                    446 mL
   Blood products:
                                                                    556 mL
   Total out:
                                                                    903 mL
                                                                    655 mL
   Urine:
                                                                    903 mL
                                                                    255 mL
   NG:
   400 mL
   Stool:
   Drains:
   Balance:
                                                                  2,967 mL
                                                                   -149 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 442 (425 - 461) mL
   PS : 5 cmH2O
   RR (Spontaneous): 21
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 43
   PIP: 11 cmH2O
   SpO2: 98%
   ABG: 7.48/30/125/20/0
   Ve: 9.4 L/min
   PaO2 / FiO2: 313
   Physical Examination
   Gen: sedated and intubated thin male, unresponsive to verbal stimuli
   Heart: RRR, no m/g/r
   Chest: CTAB;
   Abdomen: Tense, distended, non-tender, +BS
   Ext: No edema, warm and well-perfused.
   Labs / Radiology
   65 K/uL
   9.1 g/dL
   96 mg/dL
   0.5 mg/dL
   20 mEq/L
   3.3 mEq/L
   11 mg/dL
   95 mEq/L
   122 mEq/L
   26.3 %
   6.0 K/uL
        [image002.jpg]
                             [**2123-12-18**]  01:14 PM
                             [**2123-12-18**]  01:29 PM
                             [**2123-12-19**]  01:24 AM
                             [**2123-12-19**]  01:38 AM
                             [**2123-12-19**]  06:38 AM
                             [**2123-12-19**]  05:15 PM
                             [**2123-12-20**]  02:52 AM
                             [**2123-12-20**]  03:50 AM
   WBC
   4.8
   7.0
   5.3
   6.0
   Hct
   24.0
   22.3
   21.6
   19.1
   26.3
   Plt
   99
   87
   77
   65
   Cr
   0.7
   0.7
   0.7
   0.5
   TCO2
   26
   26
   23
   Glucose
   125
   97
   96
   Other labs: PT / PTT / INR:20.3/113.6/1.9, ALT / AST:55/126, Alk Phos /
   T Bili:106/7.8, Differential-Neuts:82.8 %, Lymph:12.6 %, Mono:4.0 %,
   Eos:0.5 %, LDH:200 IU/L, Ca++:8.4 mg/dL, Mg++:1.5 mg/dL, PO4:2.8 mg/dL
   Imaging: CXR [**12-20**]:  (my read) increased retrocardiac/hilar opacity
   Microbiology: [**12-18**] ucx negative
   [**12-18**] bcx ntd
   [**12-17**] peritoneal fluid, csf negative
   Assessment and Plan
 HYPOTENSION (NOT SHOCK)
 HYPONATREMIA (LOW SODIUM, HYPOSMOLALITY)
 LIVER FUNCTION ABNORMALITIES
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 .H/O ALCOHOL ABUSE
 HIV (HUMAN IMMUNODEFICIENCY VIRUS, ACQUIRED IMMUNODEFICIENCY
   SYNDROME, AIDS)
   Mr. [**Known lastname 10351**] is a 52 year old gentleman with a PMH significant for HIV
   (CD4 [**2123**]), HCV, HBV admittited to medicine on [**2123-12-6**] with acute
   on chronic mental status concerning for meningitis now transferred to
   the MICU for hypoxic respiratory failure.
   .
   # Hypoxic respiratory failure: Patient with initial hyperventilation
   overnight with ABG consistent with acute respiratory alkalosis.  on
   [**12-18**], he had a new supplemental O2 requirement in the setting of rapid
   shallow breathing that was likely alveolar hypoventilation with an
   increased Vd/Vt.  He developed hypoxemia requiring intubation likely
   from tiring with accessory muscle use.  Potential etiologies to the
   patient's hyperventilation in the setting of normal oxygenation include
   CVA-related pulmonary complications including central neurogenic
   hyperventilation, pulmonary emboli, sepsis with hyperventilation, and
   increased restrictive physiology from ascites, effusions, or
   parenchymal lung disease including pneumonia.  Patient was started on
   heparin gtt prior to transfer over concern for PE, and his
   antimicrobial therapy was broadened to vanco and cefepime.  His CTA was
   negative for PE and his heparin drip was stopped.  No signs of increase
   intracranial pressure on CT head, although a MRI would be more
   sensitive for stroke to medulla.
   - Continue antimicrobial therapy including vanco ([**12-18**]-now,
   [**Date range (1) **]), cefepime (start [**12-18**]), flagyl ([**12-18**]), and acyclovir
   ([**12-9**], [**12-6**]).
   - Discuss with ID appropriate antibiotic regimen, given pt is on
   numerous abx.
   - Vanc trough slightly high today; lower dose to Vanc 750 q12h and
   re-check trough tomorrow
   - Cortisol level for adrenal insufficiency NORMAL.
   - Wean sedation and extubate today;  pt successfully extubated after
   rounds.
   .
   # AMS/Meningitis/CVA: Patient with new right pontinue infarct on [**12-12**].
   Questionable worsening of mental status.  Potential etiologies include
   new CVA, infection, hyponatremia, hepatic encephalopathy.  [**Month (only) 8**] also be
   HIV pleocytosis.
   - Pan-culture, antimicrobial therapy as above.
   - Lactulose
   - Renal recommends leaving hyponatremia as is for now and allowing to
   self-equilibrate; re-check lytes in PM.
   - MRI to r/o CVA possibly if not improving
   .
   # Abdominal Distension:  No evidence of ileus or GI bleed but monitor
   closely.
   - Abdominal US complete with dopplers to evaluate for intra-abdominal
   process
   - Mark for paracentesis during US
   - Ensure pt on bowel regimen
   .
   # Tachycardia: Potential etiologies include PE, infection, or centrally
   medited process in patient with known leptomeningeal inflammation and
   pontine CVA.
   - Work-up as above.
   .
   # Hyponatremia: Patient with progressively worsening hyponatremia now
   to 119.  Given progressive decline in serum sodium, consulted Renal.
   - Trend lytes, check urine lytes/osm q 12h, as above as per Renal
   .
   # Cirrhosis: Worsening synthetic function over the course of his
   hospital stay with progressively worsening hyperbilirubinemia
   concerning for worsening liver function.
   - Lactulose and rifaximin
   - Follow-up hepatology recs daily
   - Trend LFTs, synthetic function.
   .
   # Anion gap acidosis: likely secondary to lactic acidosis with most
   recent lactate of 2.2.
   - Trend lactate, AG
   - Antimicrobials as source localization as above.
   .
   # Anemia: Stable anemia. Continue to trend hct.
   .
   # Coagulopathy: Most likely secondary to poor synthetic function.
   - Trend coags.
   .
   # IDDM: HISS and accuchecks.
   .
   # HIV: Not currently on HAART. Follow-up ID recs.
   .
   FEN: No IVF, replete electrolytes
   Prophylaxis: Heparin SC, H2B
   Access: Double lumen PICC; IJ needs to be inserted 2 cm
   Code:  Full (confirmed with Mother)
   Communication: [**Name (NI) **],[**Name (NI) 3199**] (Sister)[**Telephone/Fax (3) 10352**]
   Disposition: ICU level of care.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2123-12-18**] 11:55 AM
   Arterial Line - [**2123-12-18**] 12:25 PM
   Multi Lumen - [**2123-12-18**] 03:10 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2123-12-20 11:00:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure, Meningitis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   s/p 2 units of pRBCs.
   History obtained from Medical records, icu team
   Patient unable to provide history: Sedated
   Allergies:
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2123-12-19**] 09:00 PM
   Cefipime - [**2123-12-20**] 12:15 AM
   Acyclovir - [**2123-12-20**] 05:30 AM
   Metronidazole - [**2123-12-20**] 06:58 AM
   Infusions:
   Fentanyl - 25 mcg/hour
   Other ICU medications:
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Ear, Nose, Throat: OG / NG tube
   Respiratory: mechanical ventilation
   Genitourinary: Foley
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2123-12-20**] 11:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.3
C (97.4
   HR: 89 (89 - 114) bpm
   BP: 120/88(95) {120/81(93) - 141/98(102)} mmHg
   RR: 21 (15 - 26) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  3,870 mL
                                                                    591 mL
   PO:
             TF:
   IVF:
                                                                  3,034 mL
                                                                    531 mL
   Blood products:
                                                                    556 mL
   Total out:
                                                                    903 mL
                                                                  1,000 mL
   Urine:
                                                                    903 mL
                                                                    600 mL
   NG:
   400 mL
   Stool:
   Drains:
   Balance:
                                                                  2,967 mL
                                                                   -409 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 435 (425 - 461) mL
   PS : 5 cmH2O
   RR (Spontaneous): 22
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 43
   PIP: 11 cmH2O
   SpO2: 95%
   ABG: 7.48/30/125/20/0
   Ve: 9.6 L/min
   PaO2 / FiO2: 313
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Tone: Not assessed, eye
   tracking
   Labs / Radiology
   9.1 g/dL
   65 K/uL
   96 mg/dL
   0.5 mg/dL
   20 mEq/L
   3.3 mEq/L
   11 mg/dL
   95 mEq/L
   122 mEq/L
   26.3 %
   6.0 K/uL
        [image002.jpg]
                             [**2123-12-18**]  01:14 PM
                             [**2123-12-18**]  01:29 PM
                             [**2123-12-19**]  01:24 AM
                             [**2123-12-19**]  01:38 AM
                             [**2123-12-19**]  06:38 AM
                             [**2123-12-19**]  05:15 PM
                             [**2123-12-20**]  02:52 AM
                             [**2123-12-20**]  03:50 AM
   WBC
   4.8
   7.0
   5.3
   6.0
   Hct
   24.0
   22.3
   21.6
   19.1
   26.3
   Plt
   99
   87
   77
   65
   Cr
   0.7
   0.7
   0.7
   0.5
   TCO2
   26
   26
   23
   Glucose
   125
   97
   96
   Other labs: PT / PTT / INR:20.3/113.6/1.9, ALT / AST:55/126, Alk Phos /
   T Bili:106/7.8, Differential-Neuts:82.8 %, Lymph:12.6 %, Mono:4.0 %,
   Eos:0.5 %, LDH:200 IU/L, Ca++:8.4 mg/dL, Mg++:1.5 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
 HYPOTENSION (NOT SHOCK)
 HYPONATREMIA (LOW SODIUM, HYPOSMOLALITY)
 LIVER FUNCTION ABNORMALITIES
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 .H/O ALCOHOL ABUSE
 HIV (HUMAN IMMUNODEFICIENCY VIRUS, ACQUIRED IMMUNODEFICIENCY
   SYNDROME, AIDS)
   Hx as above, complicated with MMP, now with meningitis, abnormal LFTs,
   acute resp failure s/p respiratory arrest
   Acute resp failure - Doing well on PSV 5/5.  Aim for extubation today
   CT head, CTA to r/o PE, c/w heparin for now
   Acute stroke/meningitis - neuro involved. Will need repeat MR, at least
   to define prognosis
   Elevated LFTs
   ECG changes with ST depression lat leads
   Hyponatremia - trend for now
   Remainder of issues per ICU team.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2123-12-18**] 11:55 AM
   Arterial Line - [**2123-12-18**] 12:25 PM
   Multi Lumen - [**2123-12-18**] 03:10 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 31 minutes
   Patient is critically ill

2123-12-21 07:36:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2123-12-20**] 04:00 PM
   - Per renal recs, check urine lytes, [**Last Name (un) **] stim test in AM, and start 1L
   fluid restriction.
   - Given 2L NS for hyponatremia c/w volume depletion
   - Abdominal US performed, marked for para, read pending
   - U lytes ordered to r/o SIADH (check this morning)
   - ID weighed in on abx recs
   Allergies:
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2123-12-20**] 08:24 PM
   Cefipime - [**2123-12-21**] 12:48 AM
   Acyclovir - [**2123-12-21**] 06:04 AM
   Metronidazole - [**2123-12-21**] 06:04 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2123-12-21**] 02:40 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2123-12-21**] 07:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 35.6
C (96
   HR: 118 (89 - 130) bpm
   BP: 134/93(103) {120/84(95) - 148/119(122)} mmHg
   RR: 34 (18 - 50) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 51.9 kg (admission): 41 kg
             Total In:
                                                                  1,354 mL
                                                                  1,130 mL
   PO:
             TF:
   IVF:
                                                                  1,164 mL
                                                                  1,070 mL
   Blood products:
   Total out:
                                                                  1,945 mL
                                                                    691 mL
   Urine:
                                                                  1,245 mL
                                                                    391 mL
   NG:
                                                                    700 mL
                                                                    300 mL
   Stool:
   Drains:
   Balance:
                                                                   -591 mL
                                                                    439 mL
   Respiratory support
   O2 Delivery Device: Face tent
   Ventilator mode: Standby
   Vt (Spontaneous): 2,106 (415 - 2,106) mL
   PS : 5 cmH2O
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 0 cmH2O
   SpO2: 97%
   ABG: 7.51/23/117/17/-2
   Ve: 11.5 L/min
   PaO2 / FiO2: 234
   Physical Examination
   GEN: NAD, cachectic.
   CV: RRR, no m/r/g.
   PULM: CTAB. Tachypneic.
   ABD: Soft, nt, nd.
   EXTR: No edema, cachectic.
   NEURO: Non-responsive to visual tracking. Moves extremities
   spontaneously, R>L.
   Labs / Radiology
   86 K/uL
   10.4 g/dL
   117 mg/dL
   0.6 mg/dL
   17 mEq/L
   4.2 mEq/L
   9 mg/dL
   97 mEq/L
   122 mEq/L
   31.0 %
   8.3 K/uL
        [image002.jpg]
                             [**2123-12-19**]  06:38 AM
                             [**2123-12-19**]  05:15 PM
                             [**2123-12-20**]  02:52 AM
                             [**2123-12-20**]  03:50 AM
                             [**2123-12-20**]  12:11 PM
                             [**2123-12-20**]  02:24 PM
                             [**2123-12-20**]  02:40 PM
                             [**2123-12-20**]  05:32 PM
                             [**2123-12-20**]  11:20 PM
                             [**2123-12-21**]  12:44 AM
   WBC
   5.3
   6.0
   6.6
   8.3
   Hct
   21.6
   19.1
   26.3
   27.5
   31.0
   Plt
   77
   65
   62
   86
   Cr
   0.7
   0.5
   0.6
   0.6
   TCO2
   23
   20
   19
   19
   19
   Glucose
   96
   101
   117
   Other labs: PT / PTT / INR:20.7/38.9/1.9, ALT / AST:59/107, Alk Phos /
   T Bili:115/7.7, Amylase / Lipase:/213, Differential-Neuts:82.8 %,
   Lymph:12.6 %, Mono:4.0 %, Eos:0.5 %, Lactic Acid:0.7 mmol/L,
   Albumin:2.8 g/dL, LDH:209 IU/L, Ca++:8.8 mg/dL, Mg++:1.8 mg/dL, PO4:2.3
   mg/dL
   No new micro
   No new imaging (Abd u/s pending).
   Assessment and Plan
 HYPOTENSION (NOT SHOCK)
 HYPONATREMIA (LOW SODIUM, HYPOSMOLALITY)
 LIVER FUNCTION ABNORMALITIES
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 .H/O ALCOHOL ABUSE
 HIV (HUMAN IMMUNODEFICIENCY VIRUS, ACQUIRED IMMUNODEFICIENCY
   SYNDROME, AIDS)
   Mr. [**Known lastname 10351**] is a 52 year old gentleman with a PMH significant for HIV
   (CD4 [**2123**]), HCV, HBV admittited to medicine on [**2123-12-6**] with acute
   on chronic mental status concerning for meningitis now transferred to
   the MICU for hypoxic respiratory failure.
   .
   # Hypoxic respiratory failure: Patient with initial hyperventilation
   overnight with ABG consistent with acute respiratory alkalosis.  on
   [**12-18**], he had a new supplemental O2 requirement in the setting of rapid
   shallow breathing that was likely alveolar hypoventilation with an
   increased Vd/Vt.  He developed hypoxemia requiring intubation likely
   from tiring with accessory muscle use.  Potential etiologies to the
   patient's hyperventilation in the setting of normal oxygenation include
   CVA-related pulmonary complications including central neurogenic
   hyperventilation, pulmonary emboli, sepsis with hyperventilation, and
   increased restrictive physiology from ascites, effusions, or
   parenchymal lung disease including pneumonia.  Patient was started on
   heparin gtt prior to transfer over concern for PE, and his
   antimicrobial therapy was broadened to vanco and cefepime.  His CTA was
   negative for PE and his heparin drip was stopped.  No signs of increase
   intracranial pressure on CT head, although a MRI would be more
   sensitive for stroke to medulla.
   - Continue antimicrobial therapy including vanco ([**12-18**]-now,
   [**Date range (1) **]), cefepime (start [**12-18**]), flagyl ([**12-18**]), and acyclovir
   ([**12-9**], [**12-6**]).
   - Discuss with ID appropriate antibiotic regimen, given pt is on
   numerous abx.
   - F/u vanco trough
   - Cortisol level for adrenal insufficiency was wnl at baseline, hold on
   repeating study.
   - Wean sedation and extubate today; pt successfully extubated after
   rounds on [**12-20**].
   .
   # AMS/Meningitis/CVA: Patient with new right pontinue infarct on [**12-12**].
   Questionable worsening of mental status.  Potential etiologies include
   new CVA, infection, hyponatremia, hepatic encephalopathy.  [**Month (only) 8**] also be
   HIV pleocytosis.
   - Pan-culture, antimicrobial therapy as above.
   - Lactulose
   - Renal recommends leaving hyponatremia as is for now and allowing to
   self-equilibrate; re-check lytes in PM.
   - MRI to r/o CVA possibly if not improving
   - Re-consult neuro
   - C/s neuro re: TB meningitis and appropriate treatment
   - Check chart for prior neuro exam
   - f/u VDRL
   .
   # Abdominal Distension:  No evidence of ileus or GI bleed but monitor
   closely.
   - Abdominal US complete with dopplers to evaluate for intra-abdominal
   process
 f/u
   - Mark for paracentesis during US if possible
   - Ensure pt on bowel regimen
   .
   # Tachycardia: Potential etiologies include PE (ruled out by CTA),
   infection, or centrally medited process in patient with known
   leptomeningeal inflammation and pontine CVA.
   - Work-up as above.
   - reconsult neuro regarding central process as etiology
   - telemetry
   .
   # Hyponatremia: Patient with progressively worsening hyponatremia now
   to 119.  Given progressive decline in serum sodium, consulted Renal.
   - SIADH seen by lytes
 water restrict to 1L per day
   - f/u renal recs
   - consider salt tabs
   - cortisol level wnl this AM
   - d/c IVF
   .
   # Cirrhosis: Worsening synthetic function over the course of his
   hospital stay with progressively worsening hyperbilirubinemia
   concerning for worsening liver function.
   - Lactulose and rifaximin
   - Hepatology has signed off
   - Trend LFTs, synthetic function.
   .
   # Anion gap acidosis: likely secondary to lactic acidosis with most
   recent lactate of 2.2.
   - Trend lactate, AG
   - Antimicrobials as source localization as above.
   .
   # Anemia: Stable anemia. Continue to trend hct.
   .
   # Coagulopathy: Most likely secondary to poor synthetic function.
   - Trend coags.
   .
   # IDDM: HISS and accuchecks.
   .
   # HIV: Not currently on HAART. Follow-up ID recs.
   .
   FEN: No IVF, replete electrolytes, nutrition consult, vit K this
   morning.
   Prophylaxis: Heparin SC, H2B
   Access: Double lumen PICC; IJ needs to be inserted 2 cm
   Code:  Full (confirmed with Mother)
   Communication: [**Name (NI) **],[**Name (NI) 3199**] (Sister)[**Telephone/Fax (3) 10352**]
   Disposition: ICU level of care.
   ICU Care
   Lines:
   PICC Line - [**2123-12-18**] 11:55 AM
   Arterial Line - [**2123-12-18**] 12:25 PM
   Multi Lumen - [**2123-12-18**] 03:10 PM

2123-12-21 08:59:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure, Cirrhosis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Extubated yesterday --> did well overnight, though demonstrating
   baseline tachypnea
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2123-12-20**] 04:00 PM
   Allergies:
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2123-12-20**] 08:24 PM
   Cefipime - [**2123-12-21**] 12:48 AM
   Acyclovir - [**2123-12-21**] 06:04 AM
   Metronidazole - [**2123-12-21**] 06:04 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2123-12-21**] 02:40 AM
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Respiratory: Tachypnea
   Genitourinary: Foley
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2123-12-21**] 08:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 35.6
C (96
   HR: 117 (89 - 130) bpm
   BP: 134/93(103) {120/84(95) - 148/119(122)} mmHg
   RR: 34 (21 - 50) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 51.9 kg (admission): 41 kg
             Total In:
                                                                  1,354 mL
                                                                  1,300 mL
   PO:
             TF:
   IVF:
                                                                  1,164 mL
                                                                  1,240 mL
   Blood products:
   Total out:
                                                                  1,945 mL
                                                                    751 mL
   Urine:
                                                                  1,245 mL
                                                                    451 mL
   NG:
                                                                    700 mL
                                                                    300 mL
   Stool:
   Drains:
   Balance:
                                                                   -591 mL
                                                                    549 mL
   Respiratory support
   O2 Delivery Device: Face tent
   Ventilator mode: Standby
   Vt (Spontaneous): 2,106 (415 - 2,106) mL
   PS : 5 cmH2O
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 0 cmH2O
   SpO2: 95%
   ABG: 7.51/23/117/17/-2
   Ve: 11.5 L/min
   PaO2 / FiO2: 234
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: L eye anucleation
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Distended
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: No(t) Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   10.4 g/dL
   86 K/uL
   117 mg/dL
   0.6 mg/dL
   17 mEq/L
   4.2 mEq/L
   9 mg/dL
   97 mEq/L
   122 mEq/L
   31.0 %
   8.3 K/uL
        [image002.jpg]
                             [**2123-12-19**]  06:38 AM
                             [**2123-12-19**]  05:15 PM
                             [**2123-12-20**]  02:52 AM
                             [**2123-12-20**]  03:50 AM
                             [**2123-12-20**]  12:11 PM
                             [**2123-12-20**]  02:24 PM
                             [**2123-12-20**]  02:40 PM
                             [**2123-12-20**]  05:32 PM
                             [**2123-12-20**]  11:20 PM
                             [**2123-12-21**]  12:44 AM
   WBC
   5.3
   6.0
   6.6
   8.3
   Hct
   21.6
   19.1
   26.3
   27.5
   31.0
   Plt
   77
   65
   62
   86
   Cr
   0.7
   0.5
   0.6
   0.6
   TCO2
   23
   20
   19
   19
   19
   Glucose
   96
   101
   117
   Other labs: PT / PTT / INR:20.7/38.9/1.9, ALT / AST:59/107, Alk Phos /
   T Bili:115/7.7, Amylase / Lipase:/213, Differential-Neuts:82.8 %,
   Lymph:12.6 %, Mono:4.0 %, Eos:0.5 %, Lactic Acid:0.7 mmol/L,
   Albumin:2.8 g/dL, LDH:209 IU/L, Ca++:8.8 mg/dL, Mg++:1.8 mg/dL, PO4:2.3
   mg/dL
   Assessment and Plan
 HYPOTENSION (NOT SHOCK)
 HYPONATREMIA (LOW SODIUM, HYPOSMOLALITY)
 LIVER FUNCTION ABNORMALITIES
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 .H/O ALCOHOL ABUSE
 HIV (HUMAN IMMUNODEFICIENCY VIRUS, ACQUIRED IMMUNODEFICIENCY
   SYNDROME, AIDS)
   53 yo man with HIV, admitted for meningitis, to MICU with respiratory
   failure.
   Acute resp failure - Doing well post-extubation but MS remains poor
   Acute stroke/meningitis
 Cont current abx - vanc/cefepime/acv/flagyl -
   also treating pneumonia with this regimen. Will clarify and discuss
   with ID.   Neuro following.  It is still unclear why his mental status
   is so poor.  He has evidence of pontine infarct on recent MRI.
   Hyponatremia - c/w SIADH.  Fluid restriction 1L
   Remainder of issues per ICU team.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2123-12-18**] 11:55 AM
   Arterial Line - [**2123-12-18**] 12:25 PM
   Multi Lumen - [**2123-12-18**] 03:10 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 32 minutes
   Patient is critically ill

2123-12-22 11:59:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure, meningitis/acute stroke
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Still not conversant
   24 Hour Events:
   Coffee ground material from NG tube yesterday - but Hct and
   hemodynamics remained stable.  Started on PPI and octreotide.
   History obtained from Medical records, icu team
   Patient unable to provide history: Encephalopathy
   Allergies:
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2123-12-21**] 08:36 AM
   Cefipime - [**2123-12-22**] 12:12 AM
   Acyclovir - [**2123-12-22**] 05:44 AM
   Metronidazole - [**2123-12-22**] 05:44 AM
   Infusions:
   Octreotide - 50 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2123-12-22**] 12:12 AM
   Morphine Sulfate - [**2123-12-22**] 08:30 AM
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Respiratory: Tachypnea
   Heme / Lymph: Anemia
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2123-12-22**] 11:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.6
C (97.9
   HR: 124 (108 - 137) bpm
   BP: 134/93(103) {0/0(0) - 0/0(0)} mmHg
   RR: 28 (24 - 53) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 53.1 kg (admission): 41 kg
             Total In:
                                                                  2,153 mL
                                                                    666 mL
   PO:
             TF:
   IVF:
                                                                  1,913 mL
                                                                    526 mL
   Blood products:
   Total out:
                                                                  1,756 mL
                                                                  1,045 mL
   Urine:
                                                                    956 mL
                                                                    595 mL
   NG:
                                                                    800 mL
                                                                    450 mL
   Stool:
   Drains:
   Balance:
                                                                    397 mL
                                                                   -379 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 98%
   ABG: 7.49/23/124/17/-2
   PaO2 / FiO2: 124
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   10.3 g/dL
   83 K/uL
   70 mg/dL
   0.7 mg/dL
   17 mEq/L
   5.1 mEq/L
   11 mg/dL
   101 mEq/L
   126 mEq/L
   29.9 %
   11.7 K/uL
        [image002.jpg]
                             [**2123-12-20**]  02:40 PM
                             [**2123-12-20**]  05:32 PM
                             [**2123-12-20**]  11:20 PM
                             [**2123-12-21**]  12:44 AM
                             [**2123-12-21**]  11:24 AM
                             [**2123-12-21**]  01:18 PM
                             [**2123-12-21**]  05:18 PM
                             [**2123-12-21**]  05:34 PM
                             [**2123-12-22**]  12:26 AM
                             [**2123-12-22**]  01:14 AM
   WBC
   8.3
   11.7
   Hct
   31.0
   30.9
   29.9
   Plt
   86
   83
   Cr
   0.6
   0.6
   0.7
   TCO2
   19
   19
   19
   18
   19
   19
   18
   Glucose
   117
   61
   70
   Other labs: PT / PTT / INR:21.3/37.8/2.0, ALT / AST:56/105, Alk Phos /
   T Bili:114/6.4, Amylase / Lipase:/103, Differential-Neuts:82.8 %,
   Lymph:12.6 %, Mono:4.0 %, Eos:0.5 %, Lactic Acid:0.7 mmol/L,
   Albumin:2.7 g/dL, LDH:224 IU/L, Ca++:8.7 mg/dL, Mg++:1.6 mg/dL, PO4:2.5
   mg/dL
   Assessment and Plan
 HYPOTENSION (NOT SHOCK)
 HYPONATREMIA (LOW SODIUM, HYPOSMOLALITY)
 LIVER FUNCTION ABNORMALITIES
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 .H/O ALCOHOL ABUSE
 HIV (HUMAN IMMUNODEFICIENCY VIRUS, ACQUIRED IMMUNODEFICIENCY
   SYNDROME, AIDS)
   53 yo man with HIV, admitted for meningitis, to MICU with respiratory
   failure.
   Acute resp failure - Was tachypneic yesterday afternoon but somewhat
   better today.  Getting morphine prn.  Still requiring NT suctioning
   given poor handling of secretion.
   Acute stroke/meningitis
 Cont current abx - vanc/cefepime/acv/flagyl -
   also treating pneumonia with this regimen. Getting repeat MRI head once
   he can tolerate
   Hyponatremia - c/w SIADH.  Fluid restriction  plus salt tabs - up to
   1267 today.
   Remainder of issues per ICU team.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2123-12-18**] 11:55 AM
   Arterial Line - [**2123-12-18**] 12:25 PM
   Multi Lumen - [**2123-12-18**] 03:10 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 31 minutes
   Patient is critically ill

2123-12-22 18:59:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: HIV, altered mental status, respiratory failure
   24 Hour Events:
   -Ethics consult placed, they will come by tomorrow
   -neuro: consider TB meningitis, MRI with and without contrast ordered
   -coffee ground suctioned through NG tube (~few hundred, unclear if
   old/new), but Hct and vitals stable
   -nutritions recs are in metavision, but given coffee-ground suctioned
   through NGT, held starting any TF's
   -cxr: new left consolidation with left retrocardiac opacity and
   increased left pleural effusion (concern for pneumonia, per radiology)
   -per ID; d/c vanc (without evidence for gram + infection); continue
   cefepime/flagyl
   -renal: high protein tube feeds (did not start tube feeds); started
   NaCl tabs
   -100cc coffee ground vomit, then 400cc more suctioned through NGT (NGT
   was pushed further so unclear if this is new, or old and was just
   sitting there); octreotide and PPI started, Hct stable, liver aware
   -mid-day tachypnea to 50s, improved with morphine, green secretions
   (sputum sent), increased O2 requirement (had been contemplating
   re-intubation, but held off successfully); family aware
   Allergies:
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2123-12-21**] 08:36 AM
   Cefipime - [**2123-12-22**] 12:28 PM
   Acyclovir - [**2123-12-22**] 02:02 PM
   Metronidazole - [**2123-12-22**] 02:02 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2123-12-22**] 12:28 PM
   Morphine Sulfate - [**2123-12-22**] 06:30 PM
   Other medications:
   Flowsheet Data as of  [**2123-12-22**] 06:53 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 35.4
C (95.7
   HR: 122 (109 - 137) bpm
   BP: 134/93(103) {0/0(0) - 0/0(0)} mmHg
   RR: 23 (18 - 53) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 53.1 kg (admission): 41 kg
             Total In:
                                                                  2,153 mL
                                                                  1,166 mL
   PO:
             TF:
   IVF:
                                                                  1,913 mL
                                                                    886 mL
   Blood products:
   Total out:
                                                                  1,756 mL
                                                                  1,610 mL
   Urine:
                                                                    956 mL
                                                                  1,160 mL
   NG:
                                                                    800 mL
                                                                    450 mL
   Stool:
   Drains:
   Balance:
                                                                    397 mL
                                                                   -444 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 98%
   ABG: 7.49/23/124/17/-2
   PaO2 / FiO2: 248
   Physical Examination
   Gen: NAD. Alert but no response to name, + response to pain
   CV: RRR, no murmurs
   Pulm: tachypnic, few crackles at the bases
   Abd: soft, nd, grimace w. palpation
   Ext: 1+ pitting edema
   Neuro: moves ext R>L
   Labs / Radiology
   83 K/uL
   10.3 g/dL
   70 mg/dL
   0.7 mg/dL
   17 mEq/L
   5.1 mEq/L
   11 mg/dL
   101 mEq/L
   126 mEq/L
   29.9 %
   11.7 K/uL
        [image002.jpg]
                             [**2123-12-20**]  02:40 PM
                             [**2123-12-20**]  05:32 PM
                             [**2123-12-20**]  11:20 PM
                             [**2123-12-21**]  12:44 AM
                             [**2123-12-21**]  11:24 AM
                             [**2123-12-21**]  01:18 PM
                             [**2123-12-21**]  05:18 PM
                             [**2123-12-21**]  05:34 PM
                             [**2123-12-22**]  12:26 AM
                             [**2123-12-22**]  01:14 AM
   WBC
   8.3
   11.7
   Hct
   31.0
   30.9
   29.9
   Plt
   86
   83
   Cr
   0.6
   0.6
   0.7
   TCO2
   19
   19
   19
   18
   19
   19
   18
   Glucose
   117
   61
   70
   Other labs: PT / PTT / INR:21.3/37.8/2.0, ALT / AST:56/105, Alk Phos /
   T Bili:114/6.4, Amylase / Lipase:/103, Differential-Neuts:82.8 %,
   Lymph:12.6 %, Mono:4.0 %, Eos:0.5 %, Lactic Acid:0.7 mmol/L,
   Albumin:2.7 g/dL, LDH:224 IU/L, Ca++:8.7 mg/dL, Mg++:1.6 mg/dL, PO4:2.5
   mg/dL
   Imaging: Abd US:
   1. Coarsened hepatic architecture with no focal solid mass identified.
   Unchanged small left hepatic cyst.
   2. Trace of ascites in the perihepatic space, but no pocket suitable
   for paracentesis could be located in the lower quadrants.
   3. Patent hepatic vasculature.
   CXR [**12-21**]: ? L rettrocardiac opacity w. air bronchograms c/f new PNA,
   incr pleural fluid
   Microbiology: None new
   Assessment and Plan
 [**Last Name 9**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 HYPOTENSION (NOT SHOCK)
 HYPONATREMIA (LOW SODIUM, HYPOSMOLALITY)
 LIVER FUNCTION ABNORMALITIES
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 .H/O ALCOHOL ABUSE
 HIV (HUMAN IMMUNODEFICIENCY VIRUS, ACQUIRED IMMUNODEFICIENCY
   SYNDROME, AIDS)
   Mr. [**Known lastname 10351**] is a 52 year old gentleman with a PMH significant for HIV
   (CD4 [**2123**]), HCV, HBV admittited to medicine on [**2123-12-6**] with acute
   on chronic mental status concerning for meningitis now transferred to
   the MICU for hypoxic respiratory failure.
   .
   # Hypoxic respiratory failure: Patient with initial hyperventilation
   overnight with ABG consistent with acute respiratory alkalosis.  on
   [**12-18**], he had a new supplemental O2 requirement in the setting of rapid
   shallow breathing that was likely alveolar hypoventilation with an
   increased Vd/Vt.  He developed hypoxemia requiring intubation likely
   from tiring with accessory muscle use.  Potential etiologies to the
   patient's hyperventilation in the setting of normal oxygenation include
   CVA-related pulmonary complications including central neurogenic
   hyperventilation, pulmonary emboli, sepsis with hyperventilation, and
   increased restrictive physiology from ascites, effusions, or
   parenchymal lung disease including pneumonia.  Patient was started on
   heparin gtt prior to transfer over concern for PE, and his
   antimicrobial therapy was broadened to vanco and cefepime.  His CTA was
   negative for PE and his heparin drip was stopped.  No signs of increase
   intracranial pressure on CT head, although a MRI would be more
   sensitive for stroke to medulla.
   - Continue antimicrobial therapy including vanco ([**12-18**]-now,
   [**Date range (1) **]), cefepime (start [**12-18**]), flagyl ([**12-18**]), and acyclovir
   ([**12-9**], [**12-6**]).
   - Vanc dc
ed per ID recs, as no evidence for gram pos infection.
   - F/u vanco trough
   - Cortisol level for adrenal insufficiency was wnl at baseline, hold on
   repeating study.
   - pt successfully extubated after rounds on [**12-20**]. Tachypnic on face
   mask. Continuing to monitor.
   .
   # AMS/Meningitis/CVA: Patient with new right pontinue infarct on [**12-12**].
   Questionable worsening of mental status.  Potential etiologies include
   new CVA, infection, hyponatremia, hepatic encephalopathy.  [**Month (only) 8**] also be
   HIV pleocytosis.
   - Pan-culture, antimicrobial therapy as above.
   - Lactulose
   - Renal recommends leaving hyponatremia as is for now and allowing to
   self-equilibrate; re-check lytes in PM.
   - Can consider MRI to r/o CVA possibly if not improving
   - Re-consult neuro re: TB meningitis and appropriate treatment
   - Check chart for prior neuro exam
   - f/u VDRL
   .
   # Abdominal Distension:  No evidence of ileus or GI bleed but monitor
   closely.
   - Abdominal US: no pockets of fluid suitable for para.
   - Mark for paracentesis during US if possible
   - Ensure pt on bowel regimen and having regular BMs
   .
   # Tachycardia: Potential etiologies include PE (ruled out by CTA),
   infection, or centrally medited process in patient with known
   leptomeningeal inflammation and pontine CVA.
   - Work-up as above.
   - reconsult neuro regarding central process as etiology
   - telemetry
   .
   # Hyponatremia: Patient with progressively worsening hyponatremia now
   to 119.  Given progressive decline in serum sodium, consulted Renal.
   - SIADH seen by lytes
 water restrict to 1L per day, start salt tabs
   per Renal recs
   - cortisol level wnl this AM
   - d/c IVF
   .
   # Cirrhosis: Worsening synthetic function over the course of his
   hospital stay with progressively worsening hyperbilirubinemia
   concerning for worsening liver function.
   - Lactulose and rifaximin
   - Hepatology has signed off
   - Trend LFTs, synthetic function.
   .
   # Anion gap acidosis: likely secondary to lactic acidosis with most
   recent lactate of 2.2.
   - Trend lactate, AG
   - Antimicrobials as source localization as above.
   .
   # Anemia: Stable anemia. Continue to trend hct.
   .
   # Coagulopathy: Most likely secondary to poor synthetic function.
   - Trend coags.
   .
   # IDDM: HISS and accuchecks.
   .
   # HIV: Not currently on HAART. Follow-up ID recs.
   .
   FEN: No IVF, replete electrolytes, nutrition consult
   Prophylaxis: PPI, pneumoboots
   Access: Double lumen PICC; IJ
   Code:  Full (confirmed with Mother)
   Communication: [**Name (NI) **],[**Name (NI) 3199**] (Sister)[**Telephone/Fax (3) 10352**]
   Disposition: ICU level of care.

2123-12-23 07:18:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - plan for family meeting tomorrow, with representatives from ethics
   and neuro, to discuss pt's prognosis and goals of care.
   - Hepatology recs: pt is not a transplant candiate. Discontinue
   octreotide drip. No indication for EGD at this time (HCT, vitals stable
   and no more blood from NGT).
   - ID: obtain sputum culture given concern for VAP. Also recommend
   starting Vancomycin.  Check C. diff toxin. Cont cefepime/flagyl.
   - Neuro: Pt was briefly tx'ed with anti-TB meds, but was dc'ed due to
   rising LFTs.  Given h/o untreated latent Tb, elevated protein & WBC w.
   decr glucose in CSF and MRI abnormality, remain concerned for CNS TB.
   Recommend MRI w. and without contrast to eval.
   - wanted to get MRI brain to eval for Tb meningitis, but pt was not
   able to lie flat (became tachypnic to 50s, desat'ed to 80s).
   - Renal: Continue salt tabs and 1L fluid restriction, check urine Na,
   K, Cl to rule out RTA.
   - Episode of desaturation to PO2 70
s this morning, was given nebs and
   nasal suctioned with slow increase of PO2 back up to high 90
   Allergies:
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2123-12-22**] 08:03 PM
   Cefipime - [**2123-12-22**] 11:30 PM
   Acyclovir - [**2123-12-23**] 05:00 AM
   Metronidazole - [**2123-12-23**] 06:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2123-12-22**] 12:28 PM
   Morphine Sulfate - [**2123-12-22**] 06:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2123-12-23**] 07:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 35.7
C (96.2
   HR: 116 (107 - 133) bpm
   BP: 134/93(103) {0/0(0) - 0/0(0)} mmHg
   RR: 21 (18 - 47) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 53.1 kg (admission): 41 kg
             Total In:
                                                                  1,744 mL
                                                                    627 mL
   PO:
             TF:
                                                                     30 mL
                                                                    148 mL
   IVF:
                                                                  1,414 mL
                                                                    359 mL
   Blood products:
   Total out:
                                                                  1,887 mL
                                                                    715 mL
   Urine:
                                                                  1,437 mL
                                                                    690 mL
   NG:
                                                                    450 mL
                                                                     25 mL
   Stool:
   Drains:
   Balance:
                                                                   -143 mL
                                                                    -89 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 98%
   ABG: ///19/
   Physical Examination
   Gen: A&Ox2, interactive, obeys commands, NAD.
   CV: RRR, no murmurs
   Pulm: rales right base
   Abd: soft, distended, tympanitic, +BS
   Ext: 2+ pitting edema R>>L
   Neuro: moves ext R>L
   Labs / Radiology
   72 K/uL
   9.2 g/dL
   66 mg/dL
   0.7 mg/dL
   19 mEq/L
   3.8 mEq/L
   13 mg/dL
   107 mEq/L
   130 mEq/L
   27.5 %
   7.9 K/uL
        [image002.jpg]
                             [**2123-12-20**]  11:20 PM
                             [**2123-12-21**]  12:44 AM
                             [**2123-12-21**]  11:24 AM
                             [**2123-12-21**]  01:18 PM
                             [**2123-12-21**]  05:18 PM
                             [**2123-12-21**]  05:34 PM
                             [**2123-12-22**]  12:26 AM
                             [**2123-12-22**]  01:14 AM
                             [**2123-12-22**]  06:20 PM
                            [**2123-12-23**]  01:26 AM
   WBC
   8.3
   11.7
   8.7
   7.9
   Hct
   31.0
   30.9
   29.9
   27.6
   27.5
   Plt
   86
   83
   87
   72
   Cr
   0.6
   0.6
   0.7
   0.8
   0.7
   TCO2
   19
   18
   19
   19
   18
   Glucose
   117
   61
   70
   70
   66
   Other labs: PT / PTT / INR:21.5/37.5/2.0, ALT / AST:58/103, Alk Phos /
   T Bili:102/5.1, Amylase / Lipase:/103, Differential-Neuts:82.8 %,
   Lymph:12.6 %, Mono:4.0 %, Eos:0.5 %, Lactic Acid:0.7 mmol/L,
   Albumin:2.5 g/dL, LDH:203 IU/L, Ca++:8.5 mg/dL, Mg++:1.7 mg/dL, PO4:2.8
   mg/dL
   Imaging: [**12-23**] - CXR pending
   Microbiology: [**Doctor Last Name 380**]-[**Doctor Last Name **] VIRUS VCA-IgG AB (Final [**2123-12-20**]):
   POSITIVE BY EIA.
      [**Doctor Last Name 380**]-[**Doctor Last Name **] VIRUS EBNA IgG AB (Final [**2123-12-20**]):    POSITIVE BY EIA.
      [**Doctor Last Name 380**]-[**Doctor Last Name **] VIRUS VCA-IgM AB (Final [**2123-12-20**]):
         NEGATIVE <1:10 BY IFA.
   [**Doctor Last Name **] [**Doctor Last Name **] Virus DNA, Quantitative Real-Time PCR
     EBV DNA, QN PCR                          1524      H    <200
   copies/mL
   MTB Complex DNA            Not Detected              Not Detected
   Assessment and Plan
 .H/O CVA (STROKE, CEREBRAL INFARCTION), OTHER
 [**Last Name 9**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 HYPOTENSION (NOT SHOCK)
 HYPONATREMIA (LOW SODIUM, HYPOSMOLALITY)
 LIVER FUNCTION ABNORMALITIES
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 .H/O ALCOHOL ABUSE
 HIV (HUMAN IMMUNODEFICIENCY VIRUS, ACQUIRED IMMUNODEFICIENCY
   SYNDROME, AIDS)
   Mr. [**Known lastname 10351**] is a 52 year old gentleman with a PMH significant for HIV
   (CD4 [**2123**]), HCV, HBV admittited to medicine on [**2123-12-6**] with acute
   on chronic mental status concerning for meningitis now transferred to
   the MICU for hypoxic respiratory failure.
   .
   # Hypoxic respiratory failure: Patient with initial hyperventilation
   overnight with ABG consistent with acute respiratory alkalosis.  on
   [**12-18**], he had a new supplemental O2 requirement in the setting of rapid
   shallow breathing that was likely alveolar hypoventilation with an
   increased Vd/Vt.  He developed hypoxemia requiring intubation likely
   from tiring with accessory muscle use.  Potential etiologies to the
   patient's hyperventilation in the setting of normal oxygenation include
   CVA-related pulmonary complications including central neurogenic
   hyperventilation, pulmonary emboli, sepsis with hyperventilation, and
   increased restrictive physiology from ascites, effusions, or
   parenchymal lung disease including pneumonia.  Patient was started on
   heparin gtt prior to transfer over concern for PE, and his
   antimicrobial therapy was broadened to vanco and cefepime.  His CTA was
   negative for PE and his heparin drip was stopped.  No signs of increase
   intracranial pressure on CT head, although a MRI would be more
   sensitive for stroke to medulla.   pt successfully extubated after
   rounds on [**12-20**]. Tachypnic on face mask.
   - Continue Vanc ([**12-18**]-now, [**Date range (1) **]), Cefepime (start [**12-18**]), Flagyl
   ([**12-18**]), and Acyclovir ([**12-9**], [**12-6**]).
   - Cortisol level for adrenal insufficiency was wnl at baseline, hold on
   repeating study.
   - Per ID, send serologies for Mycoplasma and Leptospirosis, which may
   both cause isolated hyperbilirubinemia and aspectic meningitis picture,
   though unlikely to be positive.
   - Consider Azithromycin for atypical coverage if patient clinically
   declines; holding for now given clinical improvement with current
   antibiotic regimen.
   .
   # AMS/Meningitis/CVA: Patient with new right pontinue infarct on [**12-12**].
   Questionable worsening of mental status.  Potential etiologies include
   new CVA, infection, hyponatremia, hepatic encephalopathy.  [**Month (only) 8**] also be
   HIV pleocytosis.  VDRL negative.
   - f/u cultures, antimicrobial therapy as above.
   - Lactulose
   - f/u neuro recs re: ?TB meningitis
   - Consider MRI to r/o TB meningitis and CVA if patient fails to improve
   or clinically declines
   .
   # Abdominal Distension:  No evidence of ileus or GI bleed but monitor
   closely.  Patient has not had BM in 3 days, abdomen distended and
   tympanitic.
   - Increase bowel regimen; add Miralax daily
   - Abdominal US: no pockets of fluid suitable for para.
   - Diagnostic paracentesis shows evidence of peritonitis, but does not
   explain tympanitic and tense abdominal distension; f/u cultures
   .
   Less active/resolved issues:
   .
   # Tachycardia: Potential etiologies include PE (ruled out by CTA),
   infection, or centrally medited process in patient with known
   leptomeningeal inflammation and pontine CVA.
   - Work-up as above.
   - reconsult neuro regarding central process as etiology
   - telemetry
   .
   # Hyponatremia: Patient with progressively worsening hyponatremia now
   to 119.  Given progressive decline in serum sodium, consulted Renal.
   - SIADH seen by lytes
 water restrict to 1L per day, start salt tabs
   per Renal recs
   - cortisol level wnl this AM
   - d/c IVF
   .
   # Cirrhosis: Worsening synthetic function over the course of his
   hospital stay with progressively worsening hyperbilirubinemia
   concerning for worsening liver function.
   - Lactulose and rifaximin
   - Hepatology has signed off
   - Trend LFTs, synthetic function.
   .
   # Anion gap acidosis: likely secondary to lactic acidosis with most
   recent lactate of 2.2.
   - Trend lactate, AG
   - Antimicrobials as source localization as above.
   .
   # Anemia: Stable anemia. Continue to trend hct.
   .
   # Coagulopathy: Most likely secondary to poor synthetic function.
   - Trend coags.
   .
   # IDDM: HISS and accuchecks.
   .
   # HIV: Not currently on HAART. Follow-up ID recs.
   .
   FEN: No IVF, replete electrolytes, tube feeds
   Prophylaxis: PPI, pneumoboots
   Access: Double lumen PICC; IJ
   Code:  Full (confirmed with Mother)
   Communication: [**Name (NI) **],[**Name (NI) 3199**] (Sister)[**Telephone/Fax (3) 10352**].
   Call mother, Neuro, ethics to arrange meeting for goals of care.
   Disposition: ICU level of care.
   ICU Care
   Nutrition:
   Vivonex (Full) - [**2123-12-22**] 09:00 PM 30 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2123-12-18**] 11:55 AM
   Arterial Line - [**2123-12-18**] 12:25 PM
   Multi Lumen - [**2123-12-18**] 03:10 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2123-12-23 09:34:00 Physician Attending Progress Note
Chief Complaint: Meninsitis, CVA, encephalopathy
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   More interactive this AM
   24 Hour Events:
   Desatted to 78 --> improved after NT suctioning
   History obtained from Medical records, icu team
   Patient unable to provide history: Encephalopathy
   Allergies:
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Cefipime - [**2123-12-22**] 11:30 PM
   Acyclovir - [**2123-12-23**] 05:00 AM
   Metronidazole - [**2123-12-23**] 06:00 AM
   Vancomycin - [**2123-12-23**] 08:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2123-12-22**] 12:28 PM
   Morphine Sulfate - [**2123-12-22**] 06:30 PM
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Ear, Nose, Throat: OG / NG tube
   Respiratory: No(t) Tachypnea
   Genitourinary: Foley
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2123-12-23**] 09:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 35.7
C (96.2
   HR: 114 (107 - 133) bpm
   BP: 134/93(103) {0/0(0) - 0/0(0)} mmHg
   RR: 31 (18 - 36) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 53.1 kg (admission): 41 kg
             Total In:
                                                                  1,744 mL
                                                                  1,054 mL
   PO:
             TF:
                                                                     30 mL
                                                                    213 mL
   IVF:
                                                                  1,414 mL
                                                                    641 mL
   Blood products:
   Total out:
                                                                  1,887 mL
                                                                    805 mL
   Urine:
                                                                  1,437 mL
                                                                    780 mL
   NG:
                                                                    450 mL
                                                                     25 mL
   Stool:
   Drains:
   Balance:
                                                                   -143 mL
                                                                    249 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 97%
   ABG: ///19/
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: scattered)
   Abdominal: Non-tender, Distended
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed, more attentive
   today
   Labs / Radiology
   9.2 g/dL
   72 K/uL
   66 mg/dL
   0.7 mg/dL
   19 mEq/L
   3.8 mEq/L
   13 mg/dL
   107 mEq/L
   130 mEq/L
   27.5 %
   7.9 K/uL
        [image002.jpg]
                             [**2123-12-20**]  11:20 PM
                             [**2123-12-21**]  12:44 AM
                             [**2123-12-21**]  11:24 AM
                             [**2123-12-21**]  01:18 PM
                             [**2123-12-21**]  05:18 PM
                             [**2123-12-21**]  05:34 PM
                             [**2123-12-22**]  12:26 AM
                             [**2123-12-22**]  01:14 AM
                             [**2123-12-22**]  06:20 PM
                            [**2123-12-23**]  01:26 AM
   WBC
   8.3
   11.7
   8.7
   7.9
   Hct
   31.0
   30.9
   29.9
   27.6
   27.5
   Plt
   86
   83
   87
   72
   Cr
   0.6
   0.6
   0.7
   0.8
   0.7
   TCO2
   19
   18
   19
   19
   18
   Glucose
   117
   61
   70
   70
   66
   Other labs: PT / PTT / INR:21.5/37.5/2.0, ALT / AST:58/103, Alk Phos /
   T Bili:102/5.1, Amylase / Lipase:/103, Differential-Neuts:82.8 %,
   Lymph:12.6 %, Mono:4.0 %, Eos:0.5 %, Lactic Acid:0.7 mmol/L,
   Albumin:2.5 g/dL, LDH:203 IU/L, Ca++:8.5 mg/dL, Mg++:1.7 mg/dL, PO4:2.8
   mg/dL
   Assessment and Plan
 .H/O CVA (STROKE, CEREBRAL INFARCTION), OTHER
 [**Last Name 9**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 HYPOTENSION (NOT SHOCK)
 HYPONATREMIA (LOW SODIUM, HYPOSMOLALITY)
 LIVER FUNCTION ABNORMALITIES
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 .H/O ALCOHOL ABUSE
 HIV (HUMAN IMMUNODEFICIENCY VIRUS, ACQUIRED IMMUNODEFICIENCY
   SYNDROME, AIDS)
   53 yo man with HIV, admitted for meningitis, to MICU with respiratory
   failure.
   Acute resp failure - Less tachypneic - still requiring NT suctioning to
   recover from desats
   Acute stroke/meningitis
 Cont current abx - vanc/cefepime/acv/flagyl.
   Getting repeat MRI head once he can tolerate - with improved MS, will
   reeval for this tomorrow
   Hyponatremia - c/w SIADH.  Na continues to imoprove.  Cont salt tabs
   and fluid restriction
   Trying to arrange a family meeting today to discuss goals of care
   Remainder of issues per ICU team.
   ICU Care
   Nutrition:
   Vivonex (Full) - [**2123-12-23**] 07:49 AM 30 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2123-12-18**] 11:55 AM
   Arterial Line - [**2123-12-18**] 12:25 PM
   Multi Lumen - [**2123-12-18**] 03:10 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 32 minutes
   Patient is critically ill

2123-12-24 07:29:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - Plan on LP today to rule out for TB meningitis (need [**2-16**] samples to
   r/o), per neuro
   - Plan for MRI today, per neuro
   - Started tube feeds
   - Sent Leptospirosis and Mycoplasma serologies, though unlikely, per ID
   (for isolated hyperbilirubinemia and aseptic meningitis picture)
   - Neuro recs consider starting Ethambutol and Streptomycin, but MICU
   team will hold off for how given ID did not believe this to be
   appropriate at this time.
   - With increased bowel regimen, had 3 large brown liquid stools.  Nurse
   sent C. diff.
   - On 3L NC (weaned down)
   Allergies:
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2123-12-23**] 08:49 PM
   Cefipime - [**2123-12-24**] 12:56 AM
   Acyclovir - [**2123-12-24**] 06:05 AM
   Metronidazole - [**2123-12-24**] 06:05 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2123-12-23**] 12:00 PM
   Morphine Sulfate - [**2123-12-23**] 10:26 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2123-12-24**] 07:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.7
C (96.2
   Tcurrent: 35.7
C (96.2
   HR: 93 (93 - 126) bpm
   BP: 134/93(103) {0/0(0) - 0/0(0)} mmHg
   RR: 22 (14 - 31) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 53.1 kg (admission): 41 kg
             Total In:
                                                                  2,931 mL
                                                                  1,055 mL
   PO:
             TF:
                                                                    881 mL
                                                                    443 mL
   IVF:
                                                                  1,620 mL
                                                                    552 mL
   Blood products:
   Total out:
                                                                  2,315 mL
                                                                    700 mL
   Urine:
                                                                  2,290 mL
                                                                    700 mL
   NG:
                                                                     25 mL
   Stool:
   Drains:
   Balance:
                                                                    616 mL
                                                                    355 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///16/
   Physical Examination
   GEN; nad, resting in bed, tracking with right eye, non-verbal.
   CV: rrr, no m/r/g
   PULM: relatively clear b/l
   EXTR: cachectic.
   Labs / Radiology
   62 K/uL
   8.7 g/dL
   94 mg/dL
   0.6 mg/dL
   16 mEq/L
   3.0 mEq/L
   9 mg/dL
   110 mEq/L
   133 mEq/L
   26.0 %
   5.9 K/uL
        [image002.jpg]
                             [**2123-12-21**]  12:44 AM
                             [**2123-12-21**]  11:24 AM
                             [**2123-12-21**]  01:18 PM
                             [**2123-12-21**]  05:18 PM
                             [**2123-12-21**]  05:34 PM
                             [**2123-12-22**]  12:26 AM
                             [**2123-12-22**]  01:14 AM
                             [**2123-12-22**]  06:20 PM
                            [**2123-12-23**]  01:26 AM
                            [**2123-12-24**]  02:12 AM
   WBC
   8.3
   11.7
   8.7
   7.9
   5.9
   Hct
   31.0
   30.9
   29.9
   27.6
   27.5
   26.0
   Plt
   86
   83
   87
   72
   62
   Cr
   0.6
   0.6
   0.7
   0.8
   0.7
   0.6
   TCO2
   18
   19
   19
   18
   Glucose
   117
   61
   70
   70
   66
   94
   Other labs: PT / PTT / INR:24.4/41.4/2.3, ALT / AST:50/90, Alk Phos / T
   Bili:97/4.3, Amylase / Lipase:/103, Differential-Neuts:82.8 %,
   Lymph:12.6 %, Mono:4.0 %, Eos:0.5 %, Lactic Acid:0.7 mmol/L,
   Albumin:2.4 g/dL, LDH:203 IU/L, Ca++:8.2 mg/dL, Mg++:1.4 mg/dL, PO4:1.7
   mg/dL
   Micro; negative c.diff [**12-23**]
   Assessment and Plan
 .H/O CVA (STROKE, CEREBRAL INFARCTION), OTHER
 [**Last Name 9**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 HYPOTENSION (NOT SHOCK)
 HYPONATREMIA (LOW SODIUM, HYPOSMOLALITY)
 LIVER FUNCTION ABNORMALITIES
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 .H/O ALCOHOL ABUSE
 HIV (HUMAN IMMUNODEFICIENCY VIRUS, ACQUIRED IMMUNODEFICIENCY
   SYNDROME, AIDS)
   Mr. [**Known lastname 10351**] is a 52 year old gentleman with a PMH significant for HIV
   (CD4 [**2123**]), HCV, HBV admittited to medicine on [**2123-12-6**] with acute
   on chronic mental status concerning for meningitis now transferred to
   the MICU for hypoxic respiratory failure.
   .
   # Hypoxic respiratory failure: Patient with initial hyperventilation
   overnight with ABG consistent with acute respiratory alkalosis.  on
   [**12-18**], he had a new supplemental O2 requirement in the setting of rapid
   shallow breathing that was likely alveolar hypoventilation with an
   increased Vd/Vt.  He developed hypoxemia requiring intubation likely
   from tiring with accessory muscle use.  Potential etiologies to the
   patient's hyperventilation in the setting of normal oxygenation include
   CVA-related pulmonary complications including central neurogenic
   hyperventilation, pulmonary emboli, sepsis with hyperventilation, and
   increased restrictive physiology from ascites, effusions, or
   parenchymal lung disease including pneumonia.  Patient was started on
   heparin gtt prior to transfer over concern for PE, and his
   antimicrobial therapy was broadened to vanco and cefepime.  His CTA was
   negative for PE and his heparin drip was stopped.  No signs of increase
   intracranial pressure on CT head, although a MRI would be more
   sensitive for stroke to medulla.   pt successfully extubated after
   rounds on [**12-20**]. Tachypnic on face mask.
   - Continue Vanc ([**12-18**]-now, [**Date range (1) **]), Cefepime (start [**12-18**]), Flagyl
   ([**12-18**]), and Acyclovir ([**12-9**], [**12-6**]).
   - Cortisol level for adrenal insufficiency was wnl at baseline, hold on
   repeating study.
   - Per ID, send serologies for Mycoplasma and Leptospirosis, which may
   both cause isolated hyperbilirubinemia and aspectic meningitis picture,
   though unlikely to be positive.
   - Consider Azithromycin for atypical coverage if patient clinically
   declines; holding for now given clinical improvement with current
   antibiotic regimen.
   .
   # AMS/Meningitis/CVA: Patient with new right pontinue infarct on [**12-12**].
   Questionable worsening of mental status.  Potential etiologies include
   new CVA, infection, hyponatremia, hepatic encephalopathy.  [**Month (only) 8**] also be
   HIV pleocytosis.  VDRL negative.
   - f/u cultures, antimicrobial therapy as above.
   - Lactulose
   - f/u neuro recs
   - Plan today for MRI brain to r/o TB meningitis and see CVA evolution,
   with/without contrast
   - plan for LP today to help f/o TB meningitis
   .
   # Abdominal Distension:  No evidence of ileus or GI bleed but monitor
   closely.  Previously, patient had not had BM in 3 days, abdomen
   distended and tympanitic. s/p BM on [**12-23**]
 c.diff negative.
   - Cont. bowel regimen
   - Abdominal US: no pockets of fluid suitable for para.
   - Diagnostic paracentesis shows evidence of peritonitis, but does not
   explain tympanitic and tense abdominal distension; f/u cultures
   - Monitor
   .
   Less active/resolved issues:
   .
   # Tachycardia: Potential etiologies include PE (ruled out by CTA),
   infection, or centrally-mediated process in patient with known
   leptomeningeal inflammation and pontine CVA. Stable.
   - Work-up as above.
   - Telemetry
   .
   # Hyponatremia: Patient with progressively worsening hyponatremia now
   to 119.  Given progressive decline in serum sodium, consulted Renal.
   Improving.
   - SIADH seen by lytes
 water restrict to 1L per day, continue salt
   tabs per renal recs
   - cortisol level wnl
   - hold on IVF
   .
   # Cirrhosis: Worsening synthetic function over the course of his
   hospital stay with progressively worsening hyperbilirubinemia
   concerning for worsening liver function.
   - Lactulose and rifaximin
   - Hepatology has signed off
   - Trend LFTs, synthetic function.
   .
   # Anion gap acidosis: likely secondary to lactic acidosis with most
   recent lactate of 2.2.
   - Trend lactate, AG
   - Antimicrobials as source localization as above.
   .
   # Anemia: Stable anemia. Continue to trend hct.
   .
   # Coagulopathy: Most likely secondary to poor synthetic function.
   - Trend coags. Will likely need platelets and/or FFP prior to procedure
   (ie: LP)
   .
   # IDDM: HISS and accuchecks.
   .
   # HIV: Not currently on HAART. Follow-up ID recs.
   .
   FEN: No IVF, replete electrolytes, tube feeds
   Prophylaxis: PPI, pneumoboots
   Access: Double lumen PICC; IJ
   Code:  Full (confirmed with Mother)
   Communication: [**Name (NI) **],[**Name (NI) 3199**] (Sister)[**Telephone/Fax (3) 10352**].
   Call mother, Neuro, ethics to arrange family meeting for goals of care.
   Disposition: Call-out to floor (as now breathing well on 3L NC, only
   needed 1 suctioning per shift, without respiratory distress).
   ICU Care
   Nutrition:
   Vivonex (Full) - [**2123-12-24**] 04:27 AM 60 mL/hour
   Lines:
   PICC Line - [**2123-12-18**] 11:55 AM
   Arterial Line - [**2123-12-18**] 12:25 PM
   Multi Lumen - [**2123-12-18**] 03:10 PM

2123-12-24 09:18:00 Physician Attending Progress Note
Chief Complaint: Meningitis/CVA, Respiratory alklosis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Down to 3L O2 this AM
   24 Hour Events:
   C. diff neg x1
   History obtained from Medical records, icu team
   Patient unable to provide history: Encephalopathy
   Allergies:
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2123-12-23**] 08:49 PM
   Cefipime - [**2123-12-24**] 12:56 AM
   Acyclovir - [**2123-12-24**] 06:05 AM
   Metronidazole - [**2123-12-24**] 06:05 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2123-12-23**] 12:00 PM
   Morphine Sulfate - [**2123-12-23**] 10:26 PM
   Other medications:
   per ICU resdient note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Ear, Nose, Throat: OG / NG tube
   Respiratory: No(t) Tachypnea
   Genitourinary: Foley
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2123-12-24**] 09:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.8
C (96.5
   Tcurrent: 35.8
C (96.5
   HR: 104 (93 - 126) bpm
   BP: 134/93(103) {0/0(0) - 0/0(0)} mmHg
   RR: 17 (14 - 26) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 53.1 kg (admission): 41 kg
             Total In:
                                                                  2,931 mL
                                                                  1,114 mL
   PO:
             TF:
                                                                    881 mL
                                                                    467 mL
   IVF:
                                                                  1,620 mL
                                                                    587 mL
   Blood products:
   Total out:
                                                                  2,315 mL
                                                                    700 mL
   Urine:
                                                                  2,290 mL
                                                                    700 mL
   NG:
                                                                     25 mL
   Stool:
   Drains:
   Balance:
                                                                    616 mL
                                                                    414 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///16/
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: scattered)
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.7 g/dL
   62 K/uL
   94 mg/dL
   0.6 mg/dL
   16 mEq/L
   3.0 mEq/L
   9 mg/dL
   110 mEq/L
   133 mEq/L
   26.0 %
   5.9 K/uL
        [image002.jpg]
                             [**2123-12-21**]  12:44 AM
                             [**2123-12-21**]  11:24 AM
                             [**2123-12-21**]  01:18 PM
                             [**2123-12-21**]  05:18 PM
                             [**2123-12-21**]  05:34 PM
                             [**2123-12-22**]  12:26 AM
                             [**2123-12-22**]  01:14 AM
                             [**2123-12-22**]  06:20 PM
                            [**2123-12-23**]  01:26 AM
                            [**2123-12-24**]  02:12 AM
   WBC
   8.3
   11.7
   8.7
   7.9
   5.9
   Hct
   31.0
   30.9
   29.9
   27.6
   27.5
   26.0
   Plt
   86
   83
   87
   72
   62
   Cr
   0.6
   0.6
   0.7
   0.8
   0.7
   0.6
   TCO2
   18
   19
   19
   18
   Glucose
   117
   61
   70
   70
   66
   94
   Other labs: PT / PTT / INR:24.4/41.4/2.3, ALT / AST:50/90, Alk Phos / T
   Bili:97/4.3, Amylase / Lipase:/103, Differential-Neuts:82.8 %,
   Lymph:12.6 %, Mono:4.0 %, Eos:0.5 %, Lactic Acid:0.7 mmol/L,
   Albumin:2.4 g/dL, LDH:203 IU/L, Ca++:8.2 mg/dL, Mg++:1.4 mg/dL, PO4:1.7
   mg/dL
   Assessment and Plan
 .H/O CVA (STROKE, CEREBRAL INFARCTION), OTHER
 [**Last Name 9**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 HYPOTENSION (NOT SHOCK)
 HYPONATREMIA (LOW SODIUM, HYPOSMOLALITY)
 LIVER FUNCTION ABNORMALITIES
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 .H/O ALCOHOL ABUSE
 HIV (HUMAN IMMUNODEFICIENCY VIRUS, ACQUIRED IMMUNODEFICIENCY
   SYNDROME, AIDS)
   53 yo man with HIV, admitted for meningitis, to MICU with respiratory
   failure.
   Acute resp failure - Respiratory status significantly improved.
   Satting well on nasal cannula, protecting airway.
   Acute stroke/meningitis
 Cont current abx - vanc/cefepime/acv/flagyl.
   Repeat LP today.  Will order head MRI.
   Hyponatremia - Continues to imoprove.  Cont salt tabs and fluid
   restriction
   Unfortunately, pt's mother did not want to meet yesterday to discuss
   overall condition/goals of care.  He has shown significant improvement
   this week though.
   Remainder of issues per ICU team.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2123-12-18**] 11:55 AM
   Arterial Line - [**2123-12-18**] 12:25 PM
   Multi Lumen - [**2123-12-18**] 03:10 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: